US07820685B2
2,6-Difluoro-N-{4-[4-chloro-6-(5-methyl-2H-pyrazol-3-ylamino)-pyrimidin-2-ylsulfanyl]-phenyl}-benzamide
A 50 ml round bottom flask was charged with 2,6-difluoro-N-[4-(4,6-dichloro-pyrimidin-2-ylsulfanyl)-phenyl]-benzamide (1.0 g, 2.3 mmol), 5-methyl-2H-pyrazol-3-ylamine (250 mg, 2.58 mmol), sodium iodide (351 mg, 2.34 mmol), diisopropylethyl amine (333 mg, 2.58 mmol) and dimethylformamide (5 ml) under nitrogen. The reaction mixture was stirred at 90° C. for 18 h, then allowed to cool to room temperature. The reaction mixture was diluted with ethyl acetate (25 ml), washed with saturated sodium bicarbonate solution and brine. The organic was dried over magnesium sulfate, filtered and concentrated in vacuo. The compound was purified by flash chromatography (75 to 80% ethyl acetate/petrol) to give the title compound (1.08 g, 98%). 1H NMR (DMSO) 2.00 (3H, s), 5.25 (1H, brs), 6.48 (1H, brs), 7.30-7.97 (7H, m), 10.28 (1H, s), 10.89 (1H, s), 11.90 (1H, s); MS(ES+): 473.4.

reactant | 2,6-difluoro-N-[4-(4,6-dichloro-pyrimidin-2-ylsulfanyl)-phenyl]-benzamide | 2.3 mmol, 1.0 g | FC1=C(C(=O)NC2=CC=C(C=C2)SC2=NC(=CC(=N2)Cl)Cl)C(=CC=C1)F | C17H9Cl2F2N3OS
reactant | 5-methyl-2H-pyrazol-3-ylamine | 2.58 mmol, 250 mg | CC=1C=C(NN1)N | C4H7N3
reactant | sodium iodide | 2.34 mmol, 351 mg | [I-].[Na+]
reactant | diisopropylethyl amine | 2.58 mmol, 333 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2,6-Difluoro-N-{4-[4-chloro-6-(5-methyl-2H-pyrazol-3-ylamino)-pyrimidin-2-ylsulfanyl]-phenyl}-benzamide | 1.08 g, 98% | FC1=C(C(=O)NC2=CC=C(C=C2)SC2=NC(=CC(=N2)Cl)NC=2NN=C(C2)C)C(=CC=C1)F | C21H15ClF2N6OS
